US07737295B2
A solution of 3,5-bis(trifluoromethyl)phenylacetic acid (105.3 mg, 0.387 mmol) in CH2Cl2 (5 mL) was cooled to 0° C. N,N-diisopropylethylamine (169 μL, 0.968 mmol) was added, followed by HATU (139 mg, 0.3667 mmol). The reaction was stirred at 0° C. for 2 minutes and then a solution of 1-[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methanamine (62.5 mg, 0.193 mmol) in CH2Cl2 (2 mL) was added. The reaction was stirred for 1 hour at 0° C. and then diluted with EtOAc (75 mL). The organics were washed with saturated NaHCO3 and brine (25 mL each), dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography with 100% CH2Cl2 gave 2-[3,5-bis(trifluoromethyl)phenyl]-N-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}acetamide. Rf=0.26 (25% EtOAc/hexanes). LCMS=578.2 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 7.79 (s, 1H), 7.70 (s, 2H), 7.59 (m, 2H), 7.33 (d, J=8.5 Hz, 1H), 7.25 (m, 1H), 6.97 (d, J=2.0 Hz, 1H), 6.91 (d, J=8.5 Hz, 1H), 5.84 (bs, 1H), 4.48 (dd, J=15.1, 6.6 Hz, 1H), 4.20 (dd, J=14.9, 4.3 Hz, 1H), 3.69 (s, 3H), 3.55 (s, 2H), 2.88 (m, 1H), 1.24 (d, J=6.8 Hz, 6H).

reactant | 3,5-bis(trifluoromethyl)phenylacetic acid | 0.387 mmol, 105.3 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)CC(=O)O)(F)F | C10H6F6O2
reactant | N,N-diisopropylethylamine | 0.968 mmol, 169 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 0.3667 mmol, 139 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methanamine | 0.193 mmol, 62.5 mg | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN)OC | C18H20F3NO
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
product | 2-[3,5-bis(trifluoromethyl)phenyl]-N-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}acetamide | FC(C=1C=C(C=C(C1)C(F)(F)F)CC(=O)NCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)(F)F | C28H24F9NO2
